US08183280B2
A. Synthesis of Boc-Leu-Pro-Sieber Resin
2 g of resin synthesised as described for step A of Example E9 was swollen with CH2Cl2 (1×10 min) then further washed with DMF three times. The Fmoc group was removed with 20% piperidine in DMF for 30 min. Further resin washings were done with DMF (3×2 min), CH2Cl2 (3×2 min) and DMF (1×1 min). Then Boc-L-leucine (3 mmol, 2.5 equivalents with respect to initial resin loading), PyBop® (3 mmol) and diisopropylethylamine (6 mmol) together in DMF (20 ml) were added to the resin. The resin was shaken at room temperature for 60 min. A small sample of resin was submitted for isatin test for completion of reaction. The resin was filtered and washed with DMF (3×2 min), CH2Cl2 (2×2 min), MeOH (2×2 min), CH2Cl2 (2×2 min) and MeOH (3×2 min).

reactant | Boc-L-leucine | 3 mmol, 2.5 equivalents | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | PyBop | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 6 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Boc-Leu-Pro | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C16H28N2O5
